US04521422
Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone
A reaction mixture of 1.87 g of (3-amino-1H-pyrazol-4-yl)phenyl-methanone and 1.76 g of 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one in 25 ml of glacial acetic acid was refluxed for 6 hours and then the solvent was removed in vacuo giving a crystalline residue. This residue was partitioned between saturated aqueous sodium bicarbonate and methylene chloride. The organic layer was dried with anhydrous sodium sulfate and then passed through a short pad of hydrous magnesium silicate. The addition of hexane to the refluxing eluate induced crystallization. After cooling, the desired product was collected, giving 2.45 g, mp 202°-203° C.

reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 1.87 g | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | 1.76 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C18H12N4O
